US06949579B2
0.82 cm3 of butyryl chloride is added to 2.1 g of 6-bromo-4,5,7-trifluoro-1H-indazole-3-amine, prepared previously, in 20 cm3 of pyridine, after cooling to about 3° C., and the mixture is then left at room temperature for 76 hours. The reaction medium is concentrated under reduced pressure (2 kPa; 40° C.) and the residue is taken up in 100 cm3 of ethyl acetate, 100 cm3 of tetrahydrofuran and 40 cm3 of water. The organic phase is washed with 2×40 cm3 of distilled water and then with 40 cm3 of saturated aqueous sodium chloride solution. After drying over magnesium sulphate, filtration and concentration under reduced pressure (2 kPa; 40° C.), the residue obtained is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 4 cm), eluting with a cyclohexane/ethyl acetate mixture (80/20 by volume). The fractions containing the expected product are combined and then evaporated under reduced pressure (2 kPa; 40° C.); after drying (90 Pa; 40° C.), 0.53 g of N-(6-bromo-4,5,7-trifluoro-1H-indazol-3-yl)butanamide is obtained in the form of a pink solid melting at 255°-257° C.

reactant | butyryl chloride | 0.82 cm3 | C(CCC)(=O)Cl | C4H7ClO
reactant | 6-bromo-4,5,7-trifluoro-1H-indazole-3-amine | 2.1 g | BrC1=C(C(=C2C(=NNC2=C1F)N)F)F | C7H3BrF3N3
solvent | pyridine | 20 cm3 | N1=CC=CC=C1 | C5H5N
product | N-(6-bromo-4,5,7-trifluoro-1H-indazol-3-yl)butanamide | 0.53 g | BrC1=C(C(=C2C(=NNC2=C1F)NC(CCC)=O)F)F | C11H9BrF3N3O
